US06277865B1
To a solution of 3-pyridyl carbinol (100 mmol) in 30 mL of ethanol is added benzyl bromide (110 mmol) dropwise via addition funnel at room temperature. Stirring is continued for 2 hours at room temperature and solvents are removed in vacuo. The residue is taken up into acetonitrile (100 mL) and washed with hexanes (3×100 mL). The acetonitrile layer is concentrated in vacuo and dried under vacuum to provide N-benzyl-3-pyridyl carbinol bromide.

reactant | 3-pyridyl carbinol | 100 mmol | N1=CC(=CC=C1)CO | C6H7NO
reactant | benzyl bromide | 110 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-benzyl-3-pyridyl carbinol bromide | [Br-].C(C1=CC=CC=C1)N1CC(=CC=C1)CO | InChI=1S/C13H15NO.BrH/c15-11-13-7-4-8-14(10-13)9-12-5-2-1-3-6-12;/h1-8,15H,9-11H2;1H/p-1
